Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ M who developed diffuse epigastric pain starting a week ago,
gradually worsening this week.  He actually attended a bachelor
party in ___ last weekend despite the abdominal
discomfort, but in the past few days the pain has been more
severe and has localized to the RLQ.  The pain is worse with
moving around and PO intake.  He denies any fevers/chills, does
attest to some decreased appetite and crampy worsening of pain
with eating, but reports feeling quite hungry and thirsty right
now.  His bowel movements have been normal and he has been
passing flatus.  He has never had pain like this before.

 
Past Medical History:
None
 
Social History:
___
Family History:
No history of cancer or IBD (father was adopted)

 
Physical Exam:
Admission Exam:
Physical Exam:
T: 98.5  P: 90  BP: 116/76  RR: 16  O2sat: 100% on RA
General: awake, alert, oriented x 3
HEENT: NCAT, EOMI, anicteric
Heart: RRR, NMRG
Lungs: CTAB, normal excursion
Chest: non-tender, no deformities
Back: no vertebral tenderness, no CVAT
Abdomen: firm, ND, TTP b/l lower quadrants, R>L.  No hernias or
masses, no organomegaly.
Pelvis: deferred (pt in hall)
Extremities: WWP, no CCE, no tenderness

Discharge Exam:

 
Pertinent Results:
___ 02:40PM URINE  HOURS-RANDOM
___ 02:40PM URINE  GR HOLD-HOLD
___ 02:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:13PM   LACTATE-1.0
___ 01:00PM   GLUCOSE-93 UREA N-11 CREAT-0.9 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 01:00PM   estGFR-Using this
___ 01:00PM   ALT(SGPT)-22 AST(SGOT)-20 ALK PHOS-43 TOT 
BILI-0.9
___ 01:00PM   LIPASE-16
___ 01:00PM   ALBUMIN-4.9
___ 01:00PM   WBC-9.7 RBC-4.83 HGB-14.5 HCT-42.9 MCV-89 
MCH-30.1 MCHC-33.9 RDW-12.5
___ 01:00PM   NEUTS-79.9* LYMPHS-12.8* MONOS-6.5 EOS-0.4 
BASOS-0.4
___ 01:00PM   PLT COUNT-190

INDICATION:  History of lower abdominal pain.  Rule out 
appendicitis. 
  
COMPARISONS:  None. 
  
TECHNIQUE:  ___ MDCT images were obtained through the abdomen and 
pelvis after 
the administration of IV contrast.  Multiplanar reformatted 
images in coronal 
and sagittal axis were generated and reviewed. 
  
FINDINGS:  The bases of the lungs are clear.   
  
ABDOMEN: The liver is normal without evidence of focal lesions 
or intrahepatic 
biliary ductal dilatation.  The gallbladder is normal without 
evidence of wall 
thickening or stones.  Adrenal glands bilaterally are normal.  
Spleen is 
homogeneous and normal in size.  Pancreas is normal without 
evidence of focal 
lesions or pancreatic ductal dilatation.  Kidneys bilaterally 
are normal 
without evidence of focal lesions or perinephric stranding.  
There is 
symmetric excretion of contrast.  There is no evidence of 
pelvicaliceal 
dilatation. The intra-abdominal vasculature is unremarkable. 
  
The stomach and duodenum are unremarkable. Small bowel is 
nondilated.  
Adjacent to a loop of distal ileum on series 2, image 48-55, 
there is 
localized fat stranding and a few locules of extraluminal gas. 
There is only 
mild thickening of the adjacent small bowel. A fluid filled 
structure is seen 
in this region, series 601b, image 28, measuring 2.2  x 1.3 cm 
which could 
represent either a small abscess or meckel's diverticulum. There 
may be a 
small neck connecting this fluid collection with the adjacent 
small bowel 
(601b;27).  
  
PELVIS:  The colon is collapsed, however, appears unremarkable.  
The appendix 
is normal.  There is a large mesenteric node (series 2, image 
47) measuring 
1.1 cm. Additional adjacent prominent reactive nodes are 
identified. There is 
free fluid within the pelvis.  The bladder is unremarkable.  The 
terminal 
ureters are normal.  No pelvic wall or inguinal lymphadenopathy 
is identified. 
  
OSSEOUS STRUCTURES:  No lytic or blastic lesions concerning for 
malignancy are 
identified. 
  
IMPRESSION:   
  
1. Inflammatory changes centered around distal small bowel with 
mild bowel 
wall thickening, fat stranding, and small amount of free air. 
Given the 
presence of a tubular fluid filled structure in this region, 
Meckels 
diverticulitis is a potential consideration. Also in the ddx: 
inflammatory 
bowel disease (Crohn's) with small abscess/perforation vs 
infectious 
enteritis. 
  
2. Normal appendix. 

INDICATION:  History of right lower rib pain.  Rule out 
pneumothorax. 
  
COMPARISONS:  None. 
  
TECHNIQUE:  PA and lateral views of the chest. 
  
FINDINGS:  The heart size is normal.  The hilar and mediastinal 
contours are 
normal.  The lungs are clear without evidence of focal 
consolidations, 
pneumothoraces or pleural effusions. 
  
IMPRESSION:  No acute cardiopulmonary abnormalities. 
  
The study and the report were reviewed by the staff radiologist. 

  
___'s Study pending XXXXXXX

 
Brief Hospital Course:
___ with small RLQ abscess and local flecks of free air 
interposed among loops of distal ileum, but with normal 
appearing appendix and terminal ileum, suggested of contained SB 
perforation. Admitted to Surgery, Dr. ___ on ___. He was 
started in the ED on IV Cipro/Flagyl which was continued. He 
improved on HOD #2 and was able to tolerate a normal diet. His 
exam improved. GI was consulted and there recommendations were 
appreciated. He was discharged home with plans to follow up in 
___ clinic and in GI clinic with repeat imaging to further 
assess his bowel pathology.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth q12 hours 
Disp #*14 Tablet Refills:*0
2. MetRONIDAZOLE (FLagyl) 500 mg PO TID Duration: 7 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*21 Tablet Refills:*0
3. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perforated Bowel

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have been diagnosed with a perforated bowel. This may have 
been caused by a disease called crohn's which you may or may not 
have, but further testing needs to be done by the ___ doctors to 
confirm ___ rule this out.  
**You will be discharged on 7 more days of oral antibiotics.  
Please take them as directed. 
**You will need to have an MRI of your abdomen in ___ weeks.  
Please call the number to Dr. ___ listed below so we 
can schedule this for you.  
.
Treatment:
* Take all medications as prescribed by the physician.  You were 
sent home with a prescription for antibiotics.  Be sure to take 
all of the antibiotics as directed.  Please complete the entire 
prescription.
* Rest: You should restrict your normal activities until you are 
completely better. It is important to get out of bed and 
ambulate. You should not return to regular activity until you 
are seen by you primary medical doctor.
* If you are still in pain, you should not eat solid foods.  
Stay on a clear liquid diet.  Acceptable liquids include: water, 
tea, broth, ginger ale, jello, diluted Gatorade, diluted apple 
juice or ice chips. 
* Please seek medical attention immediately if you develop 
severe abdominal pain.  
 
Followup Instructions:
___